US09353126B2
5,6-Dihydrobenzo[h]cinnolin-3(2H)-one (4.5 g) was heated at 100° C. with phosphorus (III) Oxychloride (80 mL) for 6.5 h. The solvent was removed under vacuum and the residue was treated with ice water. The resulting solid was filtered off, washed well with water and air dried to give 3-chloro-5,6-dihydrobenzo[h]cinnoline; 1H NMR (DMSO-d6, 300 MHz) 8.32 (m, 1H), 7.36 (s, 1H), 7.32 (m, 2H), 7.19 (d, 1H), 2.91 (s, 4H) ppm; MS (ES) 217/219 (M+H).

reactant | 5,6-Dihydrobenzo[h]cinnolin-3(2H)-one | 4.5 g | N=1NC(C=C2CCC3=C(C12)C=CC=C3)=O | C12H10N2O
reactant | phosphorus (III) Oxychloride | 80 mL | O(Cl)Cl.[P+3]
product | 3-chloro-5,6-dihydrobenzo[h]cinnoline | ClC=1N=NC=2C3=C(CCC2C1)C=CC=C3 | C12H9ClN2
